US08211908B2
To a suspension of 0.15 g of 1-(1,3-dioxolan-2-ylmethyl)-7-hydroxy-1,5-naphthyridin-2(1H)-one in 1.5 mL of toluene, 1 mL of a 40% aqueous sodium hydroxide solution, 97 mg of tetrabutylammonium bromide and 0.25 mL of an N,N-dimethylformamide solution of 10 mol/L chloro(difluoro)methane were added, the mixture was stirred for 50 minutes, then, thereto was added 1 mL of an N,N-dimethylformamide solution of 10 mol/L chloro(difluoro)methane, and the mixture was stirred for 3 hours 40 minutes. Water and toluene were added to the reaction mixture, the organic layer was separated, and the aqueous layer was extracted with toluene. The organic layer and the extract were combined, the resultant solution was washed sequentially with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 95 mg of 7-(difluoromethoxy)-1-(1,3-dioxolan-2-ylmethyl)-1,5-naphthyridin-2(1H)-one as a light brown solid.

reactant | 1-(1,3-dioxolan-2-ylmethyl)-7-hydroxy-1,5-naphthyridin-2(1H)-one | 0.15 g | O1C(OCC1)CN1C(C=CC2=NC=C(C=C12)O)=O | C12H12N2O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | 0.25 mL | CN(C=O)C | C3H7NO
reactant | chloro(difluoro)methane | 10 mol/L | ClC(F)F | CHClF2
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | chloro(difluoro)methane | 10 mol/L | ClC(F)F | CHClF2
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 97 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | O | H2O
product | 7-(difluoromethoxy)-1-(1,3-dioxolan-2-ylmethyl)-1,5-naphthyridin-2(1H)-one | 95 mg | FC(OC1=CN=C2C=CC(N(C2=C1)CC1OCCO1)=O)F | C13H12F2N2O4
